US08623889B2
To a solution of N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)piperidine-4-carboxamide (110.6 mg, 0.1936 mmol) in N,N-dimethylformamide (2.0 mL, 26 mmol) was added N,N-diisopropylethylamine (0.1 mL, 0.574 mmol) and iodoethane (19.0 uL, 0.238 mmol). The reaction was stirred at room temperature for 19 hours, and then N,N-diisopropylethylamine (0.1 mL) and iodoethane (30 uL, 0.375 mmol) were added. After an additional 4 hours, the mixture was evaporated in vacuo. The crude product was purified via reverse phase HPLC and lyophilized to yield 31.4 mg (41%) of 1-ethyl-N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)piperidine-4-carboxamide. LCMS (ESI): RT (min)=4.370, M+H=392.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 10.76 (s, 1H), 9.19 (s, 1H), 8.53 (s, 1H), 8.06 (s, 1H), 7.96 (d, J=8.6 Hz, 1H), 7.73 (d, J=8.5 Hz, 1H), 7.39 (s, 1H), 7.18 (d, J=8.9 Hz, 2H), 3.53 (unresolved, 2H), 3.08 (unresolved, 2H), 2.83 (unresolved, 3H), 2.25 (s, 3H), 2.07 (unresolved, 2H), 1.90 (unresolved, 2H), 1.22 (unresolved, 3H).

reactant | N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)piperidine-4-carboxamide | 0.1936 mmol, 110.6 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CCNCC1)C | C22H22FN3O
reactant | N,N-dimethylformamide | 26 mmol, 2.0 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 0.574 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | iodoethane | 0.238 mmol, 19.0 uL | ICC | C2H5I
reactant | N,N-diisopropylethylamine | 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | iodoethane | 0.375 mmol, 30 uL | ICC | C2H5I
product | 1-ethyl-N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)piperidine-4-carboxamide | 31.4 mg, 41% | C(C)N1CCC(CC1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C1=C(C=CC(=C1)F)C | C24H26FN3O
